US09260439B2
Step 2: Preparation of tert-butyl 3-{4-chloro-2[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}azetidine-1-carboxylate
A solution of tert-butyl 3-({6-chloro-5-(2-hydroxyethyl)-2-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl}amino)azetidine-1-carboxylate (0.1 g, 0.234 mmol) in DCM (4 mL) was treated with TEA (0.08 mL, 0.57 mmol) and methanesulfonyl chloride (0.026 mL, 0.34 mmol) at 0° C., followed by addition of a catalytic amount of DMAP. The reaction mixture was stirred for 2 h, letting the ice bath slowly warm to about 15° C. The reaction mixture was partitioned between DCM (2×10 mL) and water (10 mL). The organic layer was dried over MgSO4 and reduced to a minimum volume. The residue was taken up in DMF (5 mL), and DBU (0.13 mL, 0.85 mmol) was added. The resulting mixture was crimp sealed and heated at 75° C. for 4 h. The crude mixture was poured into a brine solution (50 mL) and the resulting white solids were collected by filtration and rinsed with water. The solids were dried in a vacuum oven at 50° C. overnight to provide (80 mg, 83%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 4.74-4.65 (m, 1 H), 4.49-4.41 (m, 1 H), 4.18-3.98 (m, 5 H), 3.84 (dd, J=11.3, 3.4 Hz, 1 H), 3.71 (t, J=8.7 Hz, 2 H), 3.66-3.61 (m, 1 H), 3.51 (dd, J=11.4, 3.1 Hz, 1 H), 3.36 (dt, J=11.8, 3.0 Hz, 1 H), 3.05 (dt, J=12.9, 3.7 Hz, 1 H), 2.85 (t, J=8.3 Hz, 2 H), 1.38 (s, 9 H), 1.13 (d, J=6.7 Hz, 3 H).

reactant | tert-butyl 3-({6-chloro-5-(2-hydroxyethyl)-2-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl}amino)azetidine-1-carboxylate | 0.234 mmol, 0.1 g | ClC1=C(C(=NC(=N1)N1[C@H](COCC1)C)NC1CN(C1)C(=O)OC(C)(C)C)CCO | C19H30ClN5O4
reactant | methanesulfonyl chloride | 0.34 mmol, 0.026 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | DBU | 0.85 mmol, 0.13 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | brine | 50 mL | [Cl-].[Na+].O
product | tert-butyl 3-{4-chloro-2[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}azetidine-1-carboxylate | 80 mg, 83% | ClC=1C2=C(N=C(N1)N1[C@H](COCC1)C)N(CC2)C2CN(C2)C(=O)OC(C)(C)C | C19H28ClN5O3
